US08703784B2
A mixture of 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate (300 mg, 0.343 mmol), tributyl(1-ethoxyvinyl)tin (0.348 mL, 1.03 mmol), Pd(PPh3)4 (39.6 mg, 0.034 mmol) in dioxane (3.5 mL) was stirred at 100° C. under Ar for 16 h. The reaction mixture was passed through a short SiO2/KF (9:1) plug (eluting with EtOAc) to remove the majority of Tin species. After evaporating, the crude product was purified by a SiO2 column (0-30%, EtOAc/Hexanes, Rf=0.65 in 50% EtOAc) to afford 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate as a pale yellow oil (258 mg, 87%).

reactant | 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate | 0.343 mmol, 300 mg | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NN(C2)C2=CC=CC=C2)C2CCC(CC2)(C(=O)OCCOC)OCCOC)Br)COCC[Si](C)(C)C)(C)C | C40H61BrN6O7Si2
reactant | tributyl(1-ethoxyvinyl)tin | 1.03 mmol, 0.348 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.034 mmol, 39.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate | 258 mg, 87% | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NN(C2)C2=CC=CC=C2)C2CCC(CC2)(C(=O)OCCOC)OCCOC)C(=C)OCC)COCC[Si](C)(C)C)(C)C | C44H68N6O8Si2
